US09079889B2
To a solution of (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-2-hydroxy-4-methylpentyl 4-methylbenzenesulfonate (1.0 equiv.) and 2,6-lutidine (3.4 equiv.) was added TBDMSOTf (1.7 equiv.) at 0° C. The solution was stirred for 7 hours as it warmed to rt. The solution was diluted with EtOAc, washed with 10% CuSO4, H2O, Na2CO3(sat.), NaCl(sat.), dried over MgSO4, filtered and concentrated. The residue was purified by silica gel column chromatography (2.5-5-10-20% EtOAc/n-heptanes) yielding (2R,3R,4S)-5-azido-2,3-bis(tert-butyldimethylsilyloxy)-4-methylpentyl 4-methylbenzenesulfonate (75%).

reactant | (2R,3R,4S)-5-azido-3-(tert-butyldimethylsilyloxy)-2-hydroxy-4-methylpentyl 4-methylbenzenesulfonate | 1.0 equiv. | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]([C@@H]([C@H](CN=[N+]=[N-])C)O[Si](C)(C)C(C)(C)C)O | C19H33N3O5SSi
reactant | 2,6-lutidine | 3.4 equiv. | N1=C(C=CC=C1C)C | C7H9N
reactant | TBDMSOTf | 1.7 equiv. | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R,3R,4S)-5-azido-2,3-bis(tert-butyldimethylsilyloxy)-4-methylpentyl 4-methylbenzenesulfonate | 75% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]([C@@H]([C@H](CN=[N+]=[N-])C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H47N3O5SSi2
